US07553854B2
Step 2. Synthesis of 4-(2-amino-4-methylbenzo[d]thiazol-6-yloxy)-N-methylpicolinamide
To the solution of 4-(4-amino-3-methylphenoxy)-N-methylpicolinamide (25 mg, 0.097 mmol, 1.0 eq) in 1 mL of cold acetic acid was added ammonium thiocyanate (11 mg, 0.145 mmol, 1.5 eq). After stirring for a few minutes, bromine (6 μL, 0.116 mmol, 1.2 eq) was injected dropwise and reaction stirred at room temperature for 3 hours. Thereafter, reaction was quenched with NaHCO3 saturated solution (ca. 10 mL) and extracted with ethyl acetate (ca. 25 mL×3), combined organic extracts were dried over sodium sulfate and condensed under reduced pressure to give sufficiently pure crude product which was carried to next step without further purification. LC/MS (m/z) [315.1] (MH+).

reactant | 4-(4-amino-3-methylphenoxy)-N-methylpicolinamide | 0.097 mmol, 25 mg, 1.0 eq | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)C | C14H15N3O2
reactant | ammonium thiocyanate | 0.145 mmol, 11 mg, 1.5 eq | [S-]C#N.[NH4+]
reactant | bromine | 0.116 mmol, 6 μL, 1.2 eq | BrBr | Br2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 4-(2-amino-4-methylbenzo[d]thiazol-6-yloxy)-N-methylpicolinamide | NC=1SC2=C(N1)C(=CC(=C2)OC2=CC(=NC=C2)C(=O)NC)C | C15H14N4O2S
